US04426391
Chloromethyl 3-methyl-1-butyl carbonate
3-Methyl-1-butanol (4.4 g) was dissolved in dichloromethane (75 ml) and pyridine (4.0 g) was added to it. The reaction mixture was cooled in an ice bath and chloromethyl chloroformate (6.5 g) was added to it with stirring. The cooling bath was removed and the reaction mixture was stirred at room temperature for 16 hours. The dichloromethane solution was washed with water thrice and once with brine. The organic layer was dried over sodium sulfate and evaporated to furnish a colorless oil of desired product weighing 10.7 g which was the pure chloromethyl isopentyl carbonate. NMR (CDCl3) δ 0.95 (6H, d, J=5 Hz, CH(CH3)2), 1.66 (3H, m, CH2 and CH), 4.28 (2H, t, J=7 Hz, OCH2CH2) and 5.73 (2H, s, OCH2Cl). IR (film) 2950, 1783, 1265 cm-1.

reactant | 3-Methyl-1-butanol | 4.4 g | CC(CCO)C | C5H12O
reactant | pyridine | 4.0 g | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 6.5 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | Chloromethyl 3-methyl-1-butyl carbonate | C(OCCl)(OCCC(C)C)=O | C7H13ClO3
